US07638515B2
4-(3-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentan-1-ol
4.11 g (10.75 mmol) of 4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-2-trimethylsilyloxy-pentan-1-ol is dissolved in 61 ml of THF, mixed with 3.39 g (10.746 mmol) of Bu4NF trihydrate, and stirred for one hour at room temperature. The reaction mixture is poured into water and extracted twice with diethyl ether. The organic phases are washed as usual with water and brine. After the desiccant is dried and filtered off, and after the solvent is spun in, the remaining residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 2.71 g (81.4%) of the desired compound is isolated.

reactant | 4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-2-trimethylsilyloxy-pentan-1-ol | 10.75 mmol, 4.11 g | FC=1C(=C(C=CC1)C(CC(CO)(O[Si](C)(C)C)C(F)(F)F)(C)C)OC | C17H26F4O3Si
reactant | Bu4NF trihydrate | 10.746 mmol, 3.39 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-].O.O.O
reactant | water | O | H2O
solvent | THF | 61 ml | C1CCOC1 | C4H8O
product | 4-(3-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentan-1-ol | 2.71 g, 81.4% | FC=1C(=C(C=CC1)C(CC(CO)(C(F)(F)F)O)(C)C)OC | C14H18F4O3
